US04933355
5-(2-Aminothiazol-4-ylmethylene)thiazolidine-2,4-dione hydrochloride
Following a procedure similar to that described in Example 21, the desired compound was prepared from 1.4 g of 5-(2-tritylaminothiazole-4-ylmethylene)thiazolidine-2,4-dione and 25 ml of a 4N dioxane solution of hydrogen chloride. The resulting product was a pale brown powder having the following physical properties.

reactant | 5-(2-tritylaminothiazole-4-ylmethylene)thiazolidine-2,4-dione | 1.4 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C=C1C(NC(S1)=O)=O | C26H19N3O2S2
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | 4N | O1CCOCC1 | C4H8O2
product | 5-(2-Aminothiazol-4-ylmethylene)thiazolidine-2,4-dione hydrochloride | Cl.NC=1SC=C(N1)C=C1C(NC(S1)=O)=O | InChI=1S/C7H5N3O2S2.ClH/c8-6-9-3(2-13-6)1-4-5(11)10-7(12)14-4;/h1-2H,(H2,8,9)(H,10,11,12);1H
